US06642226B2
Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(3-diethylamino-phenyl)-3-phenyl-piperidin-1-yl]-methanone
The title compound, MS: m/e=549.2 (M+), was prepared in accordance with the general method of example 10 from rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[4-(3-bromo-phenyl)-3-phenyl-piperidin-1-yl]-methanone and diethylamine.

reactant | rac-cis-(3,5-bis-trifluoromethyl-phenyl)-[4-(3-bromo-phenyl)-3-phenyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=C1)Br)C1=CC=CC=C1)(F)F | C26H20BrF6NO
reactant | diethylamine | C(C)NCC | C4H11N
product | Rac-cis-(3,5-Bis-trifluoromethyl-phenyl)-[4-(3-diethylamino-phenyl)-3-phenyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1C[C@H]([C@H](CC1)C1=CC(=CC=C1)N(CC)CC)C1=CC=CC=C1)(F)F | C30H30F6N2O
